US08106208B2
(c) 1-Azetidin-3-yl-N,N-dimethylpiperidine-4-carboxamide
Palladium hydroxide on carbon (0.10 g) was placed in a 5 mL vial intended for microwave synthesis. 1-[1-(Diphenylmethyl)azetidin-3-yl]-N,N-dimethylpiperidine-4-carboxamide (0.20 g, 0.53 mmol) dissolved in methanol (3 mL) and acetic acid (0.3 mL) was added. The mixture was stirred under hydrogen (1.6 bar) at RT for four days. The mixture was filtered through a plug of Celite®. The solvent was removed by evaporation and there was obtained 0.11 g (53%) of the title compound.

reactant | 1-[1-(Diphenylmethyl)azetidin-3-yl]-N,N-dimethylpiperidine-4-carboxamide | 0.53 mmol, 0.20 g | C1(=CC=CC=C1)C(N1CC(C1)N1CCC(CC1)C(=O)N(C)C)C1=CC=CC=C1 | C24H31N3O
reactant | acetic acid | 0.3 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 3 mL | CO | CH4O
catalyst | Palladium hydroxide on carbon | 0.10 g | [OH-].[OH-].[Pd+2]
product | 1-Azetidin-3-yl-N,N-dimethylpiperidine-4-carboxamide | 0.11 g, 53% | N1CC(C1)N1CCC(CC1)C(=O)N(C)C | C11H21N3O
